US07790895B2
To a solution of (4-bromo-pyridin-3-yl)-methanol (53 mg 0.2 mmol) in THF (2 mL) at −78° C. was added dropwise 2.5 M n-butyllithium (0.24 mL, 0.6 mmol). After 15 min a solution of 3-cyanobenzaldehyde (79 mg) in THF (0.5 ml) was added. The reaction mixture was stirred for 15 min, then quenched with ammonium chloride solution and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, concentrated and the residue purified by flash chromatography to yield 3-{hydroxy-[3-(hydroxy-phenyl-methyl)-pyridin-4-yl]-methyl}-benzonitrile as white crystals.

reactant | (4-bromo-pyridin-3-yl)-methanol | 0.2 mmol, 53 mg | BrC1=C(C=NC=C1)CO | C6H6BrNO
reactant | n-butyllithium | 0.6 mmol, 2.5 M, 0.24 mL | C(CCC)[Li]
reactant | 3-cyanobenzaldehyde | 79 mg | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | THF | 0.5 ml | C1CCOC1 | C4H8O
product | 3-{hydroxy-[3-(hydroxy-phenyl-methyl)-pyridin-4-yl]-methyl}-benzonitrile | OC(C=1C=C(C#N)C=CC1)C1=C(C=NC=C1)C(C1=CC=CC=C1)O | C20H16N2O2
